US07816395B2
c) 1,1-Dimethylethyl [(3S)-1-methyl-5-oxo-3-pyrrolidinyl]carbamate
NaBH4 (2.7 g, 74.23 mmol) was added portionwise to an ice cold solution of phenylmethyl (3S)-3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-(methylamino)-4-thioxobutanoate (3.3 g, 9.36 mmol) and NiCl2.6H2O (5.1 g, 21.62 mmol) in THF (50 mL) and EtOH (50 mL) and the reaction mixture was stirred at room temperature for 2.5 days. The resulted black mixture was then filtered through a pad of Celite and the filtrate was concentrated. To this residue was added toluene (15 mL) and the solution was refluxed for 12 h. After cooling to room temperature, the reaction was concentrated and purified via silica gel chromatography with 0% MeOH in CH2Cl2 grading to 10% MeOH in CH2Cl2 to give the titled product (0.96 g, 48%) as a white solid. 1H-NMR (CDCl3) δ: 1.466 (9H, s), 2.270 (1H, dd, J=16 Hz, 4 Hz), 2.770 (1H, m), 2.874 (3H, s), 3.260 (1H, dd, J=8 Hz, 4 Hz), 3.720 (1H, m), 4.310 (1H, s), 4.820 (1H, s). LC-MS (ES) m/e 215.2 (M+H)+.

reactant | NaBH4 | 74.23 mmol, 2.7 g | [BH4-].[Na+]
reactant | phenylmethyl (3S)-3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-(methylamino)-4-thioxobutanoate | 9.36 mmol, 3.3 g | CC(C)(C)OC(=O)N[C@@H](CC(=O)OCC1=CC=CC=C1)C(=S)NC | C17H24N2O4S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOH | 50 mL | CCO | C2H6O
product | 1,1-Dimethylethyl [(3S)-1-methyl-5-oxo-3-pyrrolidinyl]carbamate | 0.96 g, 48% | CN1C[C@H](CC1=O)NC(OC(C)(C)C)=O | C10H18N2O3
